US06727250B2
trans-3-nitrocinnamic acid-N-(2-carboxy-phenyl)-amide
500 mg (1.53 mmol) of trans-3-nitrocinnamic acid-N-(2-methoxycarbonyl-phenyl)-amide are stirred into a mixture of 20 ml of methanol and 8 ml of 2N sodium hydroxide solution for two hours at 50° C. Then the methanol is distilled off in vacuo, the residue is diluted with about 150 ml of water and adjusted to about pH 2.5 with stirring. The product which is then precipitated is suction filtered, washed with about 10 ml of water and dried.

reactant | trans-3-nitrocinnamic acid-N-(2-methoxycarbonyl-phenyl)-amide | 1.53 mmol, 500 mg | COC(=O)C1=C(C=CC=C1)NC(\C=C\C1=CC(=CC=C1)[N+](=O)[O-])=O | C17H14N2O5
reactant | sodium hydroxide | 2N, 8 ml | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | trans-3-nitrocinnamic acid-N-(2-carboxy-phenyl)-amide | C(=O)(O)C1=C(C=CC=C1)NC(\C=C\C1=CC(=CC=C1)[N+](=O)[O-])=O | C16H12N2O5
